US07176212B2
4-(2-Fluoro-5-methylanilino)-2-chloropyrimidine
2,4-Dichloropyrimidine (7.0 g, 47 mmol) was dissolved in n-butanol (5 ml), followed by addition of DIPEA (9.0 ml, 51.7 mmol), then 2-fluoro-5-methylaniline (5.3 ml, 47 mmol). The mixture was heated at 100° C. overnight, and then allowed to cool to ambient temperature. The mixture was evaporated to give an oil, which was taken up in DCM (250 ml) and washed with water (3×50 ml), brine (50 ml), dried over MgSO4 and evaporated to give an orange oil. This was purified by column chromatography eluting with EtOAc:isohexane (10:90) to give the title product as a white solid (2.40 g, 21%). NMR (300 MHz): 2.3 (s, 3H), 6.7 (d, 1H), 7.0 (m, 1H), 7.2 (m, 1H), 7.5 (d, 1H), 8.1 (d, 1H), 9.7 (s, 1H); m/z: (ES+) 237.9 (MH+).

reactant | 2,4-Dichloropyrimidine | 47 mmol, 7.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | DIPEA | 51.7 mmol, 9.0 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-fluoro-5-methylaniline | 47 mmol, 5.3 ml | FC1=C(N)C=C(C=C1)C | C7H8FN
solvent | n-butanol | 5 ml | C(CCC)O | C4H10O
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-Fluoro-5-methylanilino)-2-chloropyrimidine | 2.40 g, 21% | FC1=C(NC2=NC(=NC=C2)Cl)C=C(C=C1)C | C11H9ClFN3
